US08084469B2
3-Methyl 1-(4-nitrophenyl) 5-(4-ethyl-3-fluorophenyl)piperidine-1,3-dicarboxylate [racemic cis/trans isomer mixture]
According to General Method 3A, 1.5 g (4.8 mmol) of methyl 5-(4-ethyl-3-fluorophenyl)piperidine-3-carboxylate and 1.3 g (6.3 mmol) of 4-nitrophenyl chloroformate were reacted. Yield: 2.1 g (92% of theory)

reactant | methyl 5-(4-ethyl-3-fluorophenyl)piperidine-3-carboxylate | 4.8 mmol, 1.5 g | C(C)C1=C(C=C(C=C1)C1CC(CNC1)C(=O)OC)F | C15H20FNO2
reactant | 4-nitrophenyl chloroformate | 6.3 mmol, 1.3 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
product | 3-Methyl 1-(4-nitrophenyl) 5-(4-ethyl-3-fluorophenyl)piperidine-1,3-dicarboxylate | C(C)C1=C(C=C(C=C1)C1CC(CN(C1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC)F | C22H23FN2O6
